US04690931
1. 2-(4-Benzylpiperidino)-4'-hydroxypropiophenone
25 g of 2-(4-benzylpiperidino)-4'-benzyloxypropiophenone are debenzylated in 200 ml of ethanol and 10 ml of acetic acid, in a Parr apparatus, in the presence of 1 g of 10% palladium-on-charcoal under a pressure of 0.1 MPa for 3 hours. The product obtained is isolated by filtering off the catalyst and evaporating off the solvent.

reactant | 2-(4-benzylpiperidino)-4'-benzyloxypropiophenone | 25 g | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C28H31NO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | 1 g | [Pd] | Pd
product | 2-(4-Benzylpiperidino)-4'-hydroxypropiophenone | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)C1=CC=C(C=C1)O)C | C21H25NO2
